US06162824
9-(3-Chlorophenyl)-9H-fluoren-9-ol
A 2.5M solution of butyllithium in hexanes (1.8 eq), (Aldrich) was added dropwise to a solution of 1-bromo-3-chlorobenzene (1.5 eq) in anhydrous diethyl ether with stirring under argon at -40° C. After stirring at room temperature for 0.5 h, a solution of 9-fluorenone (1 eq), (Aldrich) in anhydrous diethyl ether was added dropwise to the mixture with stirring and cooling at 0° C. The reaction mixture was stirred at room temperature for 1 h, poured into a saturated solution of ammonium chloride and extracted with dichloromethane. The combined dichloromethane extracts were washed with brine, dried (MgSO4), the solvent evaporated and the residue chromatographed on silica gel column with 10% ethyl acetate in hexanes to give the title compound as an oil.

reactant | butyllithium | C(CCC)[Li]
reactant | 1-bromo-3-chlorobenzene | 1.5 eq | BrC1=CC(=CC=C1)Cl | C6H4BrCl
reactant | 9-fluorenone | 1 eq | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 9-(3-Chlorophenyl)-9H-fluoren-9-ol | ClC=1C=C(C=CC1)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C19H13ClO
